US04659813
A second 128 ml aliquot of the ceftazidime solution prepared as described above was cooled and maintained at 5° C., while the pH was adjusted from 5.8 to 3.6 with 10.5 ml of 5.9M formic acid. The stirred solution was seeded with ceftazidime pentahydrate crystals and crystallization commenced. After 5 hours the crystals were harvested by filtration, washed with 150 ml of chilled water and 100 ml of chilled acetone and air dried to give 20.8 g of ceftazidime pentahydrate. The material assayed as follows: HPLC potency 84.4% (as is); polymer (stressed material) 0.66%; related substances, 1.07%; Karl Fischer 14.1%.

reactant | ceftazidime | CC(C)(C(=O)O)O/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)C[N+]=4C=CC=CC4)C(=O)[O-] | C22H22N6O7S2
solvent | formic acid | 5.9M, 10.5 ml | C(=O)O | CH2O2
product | ceftazidime pentahydrate | 20.8 g | CC(C)(C(=O)O)O/N=C(\C1=CSC(=N1)N)/C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)C[N+]4=CC=CC=C4)C(=O)[O-].O.O.O.O.O | InChI=1S/C22H22N6O7S2.5H2O/c1-22(2,20(33)34)35-26-13(12-10-37-21(23)24-12)16(29)25-14-17(30)28-15(19(31)32)11(9-36-18(14)28)8-27-6-4-3-5-7-27;;;;;/h3-7,10,14,18H,8-9H2,1-2H3,(H4-,23,24,25,29,31,32,33,34);5*1H2/b26-13+;;;;;/t14-,18-;;;;;/m1...../s1
